US07064136B2
2-(3,4-Dichlorophenyl)-4-(dimethyamino)-butanal
2-(3,4-Dichlorophenyl)-4-(dimethyamino)-butanol (1.40 g) was reacted with oxalyl chloride/DMSO under standard swern oxidizing conditions in DCM (80 mL) to afford (1.60 g crude) as a oil which was contaminated with tetrabutyammonium cation after aqueous extraction from DCM; MS: m/z 260 (M+); 1H NMR (CDCl3) δ 9.57 (d), 7.44 (d), 7.33 (d), 7.07 (dd), 3.66 (t), 2.35-2.03 (m), 2.22 (s).

reactant | 2-(3,4-Dichlorophenyl)-4-(dimethyamino)-butanol | 1.40 g | ClC=1C=C(C=CC1Cl)C(CO)CCN(C)C | C12H17Cl2NO
reactant | oxalyl chloride DMSO | C(C(=O)Cl)(=O)Cl.CS(=O)C
reactant | tetrabutyammonium | C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,4-Dichlorophenyl)-4-(dimethyamino)-butanal | ClC=1C=C(C=CC1Cl)C(C=O)CCN(C)C | C12H15Cl2NO
